US08378104B2
Step B: 3-bromothieno[2,3-c]pyridine-2-carboxamide
To a cooled (0° C.) mixture of 3-bromothieno[2,3-c]pyridine-2-carboxylic acid (50 mg, 0.19 mmol), DCM (1 mL) and DMF (10 μL, 0.1 mmol) was added oxalyl chloride (29 μL, 0.34 mmol). The ice bath was removed and the mixture was stirred at room temperature for 1 h. Oxalyl chloride (29 μL, 0.34 mmol) was added again and the mixture was stirred at room temperature for 1 h. The solvent was evaporated and THF (1 mL) was added. Ammonium hydroxide (0.7 mL, 20 mmol) was added to the mixture and stirred at room temperature for 1 h. The precipitate was filtered and washed with DCM and used without further purification. 1H NMR (400 MHz, CD3OD): δ 9.20-9.27 (m, 1 H), 8.61 (d, J=5.8 Hz, 1 H), 7.89 (dd, J=5.7, 0.9 Hz, 1 H); MS (ESI): 257.33, 259.35 [M+H]+; HPLC tR=0.52 min (HPLC: Analytical—2 min).

reactant | 3-bromothieno[2,3-c]pyridine-2-carboxylic acid | 0.19 mmol, 50 mg | BrC1=C(SC2=CN=CC=C21)C(=O)O | C8H4BrNO2S
reactant | DMF | 0.1 mmol, 10 μL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.34 mmol, 29 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Oxalyl chloride | 0.34 mmol, 29 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Ammonium hydroxide | 20 mmol, 0.7 mL | [OH-].[NH4+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-bromothieno[2,3-c]pyridine-2-carboxamide | BrC1=C(SC2=CN=CC=C21)C(=O)N | C8H5BrN2OS
